US07459448B2
4-Chloro-2-(3-methoxycarbonyl-2(R)-methyl-propionylamino)-benzoic acid methyl ester (ii-i)
(R)-(+)-2-Methylsuccinic acid 4-methyl ester (1 g, 6.8 mmol) was dissolved in CH2Cl2 (40 mL). Oxalyl chloride [2M in CH2Cl2 (3.7 mL, 7.4 mmol)] was then added followed by a few drops of DMF (0.1 mL). The mixture was stirred at 22° C. for 3 h, after which it was concentrated under reduced pressure. The resulting residue was then suspended in CH2Cl2 (10 mL) and added slowly to a stirring solution of methyl 2-amino-4-chlorobenzoate (i-i) (1.26 g, 6.8 mmol) in triethylamine (3.76 mL, 27.2 mmol) in CH2Cl2 (40 mL). The reaction mixture was allowed to stir at 22° C. for 1 h. The mixture was then partitioned between CH2Cl2 (50 mL) and H2O (50 mL). The aqueous layer was extracted with CH2Cl2 (3×50 mL) and the combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to dryness. The resulting orange residue was purified by column chromatography, eluting with 20% ethyl acetate in hexane to give ii-i as a clear oil (1.8 g, 85% yield): MS m/z═314 (M+H).

reactant | (R)-(+)-2-Methylsuccinic acid 4-methyl ester | 6.8 mmol, 1 g | COC(C[C@H](C(=O)O)C)=O | C6H10O4
reactant | Oxalyl chloride | 7.4 mmol, 2M, 3.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 2-amino-4-chlorobenzoate | 6.8 mmol, 1.26 g | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
reactant | triethylamine | 27.2 mmol, 3.76 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-(3-methoxycarbonyl-2(R)-methyl-propionylamino)-benzoic acid methyl ester | 1.8 g, 85% yield | COC(C1=C(C=C(C=C1)Cl)NC([C@@H](CC(=O)OC)C)=O)=O | C14H16ClNO5
